US07989457B2
To a an ambient temperature suspension of potassium tert-butoxide (670 mg, 5.39 mmol) in toluene (36 mL) is added (methoxymethyl)triphenylphosphonium chloride (1.85 g, 5.56 mmol) and is stirred at room temperature for 30 min. 1-(4′-trifluoromethylbiphenyl-4-yl)-propan-1-one (1 g, 3.59 mmol) is added, and the reaction mixture continues to stir at room temperature overnight. The reaction mixture is filtered, using dichloromethane to aid rinsing, concentrated to ⅓ volume, then loaded onto silica gel and eluted using hexanes with an ethyl acetate gradient from 0% to 25% giving 4-(1-methoxymethylene-propyl)-4′-trifluoromethylbiphenyl (278 mg).

reactant | potassium tert-butoxide | 5.39 mmol, 670 mg | CC(C)([O-])C.[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 5.56 mmol, 1.85 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-(4′-trifluoromethylbiphenyl-4-yl)-propan-1-one | 3.59 mmol, 1 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(CC)=O)(F)F | C16H13F3O
solvent | toluene | 36 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(1-methoxymethylene-propyl)-4′-trifluoromethylbiphenyl | 278 mg | COC=C(CC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C18H17F3O
